US04582839
A mixture of 5-{4-[2-(5-ethyl-2-pyridyl)-3-hydroxypropoxy]benzyl}-2,4-thiazolidinedione sodium salt (408 mg), pyridine (10 ml) and acetic anhydride (0.15 ml) was stirred at room temperature for 8 hours, and poured in water, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and freed of the solvent. The residue was chromatographed on a silica-gel (20 g) column and elution was effected with benzene-acetone (10:1, V/V) to give 5-{4-[3-acetoxy-2-(5-ethyl-2-pyridyl)propoxy]benzyl}-2,4-thiazolidinedione in the form of an oily substance. Yield of 350 mg (81.8%). IR(Neat): 1740, 1690, 1230 cm-1. NMR (CDCl3)δ: 1.24(3H,t,J=7 Hz), 2.00(3H,s), 2.64(2H,q,J=7 Hz), 3.03(1H,dd,J=14 and 9 Hz), 3.45(1H,dd,J=14 and 9 Hz), 3.60 (1H,m), 4.31(2H,d,J=5 Hz), 4.47(1H,dd,J=9 and 4 Hz), 4.55 (2H,d,J=5 Hz), 6.80(2H,d,J=9 Hz), 7.10(2H,d,J=9 Hz), 7.20(1H,d, J=8 Hz), 7.48(1H,dd,J=8 and 2 Hz), 8.42(1H,d,J=2 Hz).

reactant | 5-{4-[2-(5-ethyl-2-pyridyl)-3-hydroxypropoxy]benzyl}-2,4-thiazolidinedione sodium salt | 408 mg | [Na].C(C)C=1C=CC(=NC1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)CO
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 5-{4-[3-acetoxy-2-(5-ethyl-2-pyridyl)propoxy]benzyl}-2,4-thiazolidinedione | C(C)(=O)OCC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C1=NC=C(C=C1)CC | C22H24N2O5S
